US04329518
The ethyl α,α-diacetyl-β-(2-fluorophenyl)glutarate was heated under vacuum at 160°-180°/10-15 mm for 1 hr, eliminating carbon dioxide and ethanol and producing 5-(2-fluorophenyl)-3-methyl-4-carbethoxy-2-cyclohexen-1-one. The crude product was distilled under reduced pressure to give 5-(2-fluorophenyl)-3-methyl-4-carbethoxy-2-cyclohexen-1-one (57.3 g); bp, 155°-162°/1.2 mm.

reactant | ethyl α,α-diacetyl-β-(2-fluorophenyl)glutarate | C(C)(=O)C(C(=O)OCC)(C(CC(=O)[O-])C1=C(C=CC=C1)F)C(C)=O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | C(C)O | C2H6O
product | 5-(2-fluorophenyl)-3-methyl-4-carbethoxy-2-cyclohexen-1-one | FC1=C(C=CC=C1)C1C(C(=CC(C1)=O)C)C(=O)OCC | C16H17FO3
